US04645844
Preparation of m-aminophenoxypropyl Methyldimethoxysilane
Using the general procedure described in Example 1 a reactor was charged with 60 g (0.55 mole) of p-aminophenol, 43.28 g of a 50% by weight aqueous solution of sodium hydroxide (0.54 mole NaOH), 112 cc dimethylsulfoxide and 120 cc toluene. The resultant mixture was heated to the boiling point for six hours under a nitrogen atmosphere to remove all of the water present by azeotropic distillation. The reaction mixture was then allowed to cool to about 75° C., at which time 100.4 g (0.56 mole) of 3-chloropropyl methyldimethoxysilane was added dropwise while the reaction mixture was stirred. Following completion of the addition the reaction mixture was heated at 115° C. for about 16 hours, following which the mixture was allowed to cool and was filtered to remove any solid material. The solvents were then removed under a pressure of about 15 mm of mercury at a temperature of about 60° C. The pressure was then reduced to from 3 to 4 mm of mercury and the material boiling from 230° to 235° C. was removed. This fraction weighed 112 g, equivalent to a yield of 80% based on starting materials. Analysis by vapor phase chromatography indicated that the purity of the product was greater than 98%. The infrared and nuclear magnetic resonance spectra of the product were consistent with the proposed structure.

reactant | p-aminophenol | 0.55 mole, 60 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | sodium hydroxide | 0.54 mole | [OH-].[Na+]
reactant | dimethylsulfoxide | 112 cc | CS(=O)C | C2H6OS
reactant | 3-chloropropyl methyldimethoxysilane | 0.56 mole, 100.4 g | ClCCC[Si](OC)(OC)C | C6H15ClO2Si
solvent | toluene | 120 cc | C1(=CC=CC=C1)C | C7H8
product | m-aminophenoxypropyl Methyldimethoxysilane | yield of 80% | NC=1C=C(OCCC[Si](OC)(OC)C)C=CC1 | C12H21NO3Si
